data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_192086_0,[C:1]([C:2]([C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])([H:14])[H:15])([C:4]([O:7][H:10])=[O:8])([N:6]([H:12])[H:13])[H:11]>>[C:1](\[C:2]([C:5]([C:3]([H:16])([H:17])[H:18])([C:4]([O:7][H:10])=[O:8])[O:9][H:13])([H:14])[H:15])(=[N:6]/[H:12])[H:11],57.47711749998672
MR_408355_2,[C:1]1([C:4]([H:13])([H:14])[H:15])([O:8][H:10])[C:2]([C:5]([H:16])([H:17])[H:18])([C:6]([H:19])([H:20])[H:21])[C:3]1([C:7](=[O:9])[H:12])[H:11]>>[C:1]([C:3]1([H:11])[C:2]([C:5]([H:16])([H:17])[H:18])([C:6]([H:19])([H:20])[H:21])[C:7]1([O:9][H:10])[H:12])([C:4]([H:13])([H:14])[H:15])=[O:8],38.14886249999034
MR_201031_1,[C:1]1([C:3]([H:9])([H:10])[H:11])([N:6]=[O:7])[C:2]([C:4]([H:12])([H:13])[H:14])([H:8])[O:5]1>>[C:1](=[C:2](\[C:4]([H:12])([H:13])[H:14])[H:8])(\[C:3]([H:9])([H:10])[H:11])[O:5][N:6]=[O:7],43.94570749997911
MR_323604_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])(/[C:6]([C:4]([H:18])([H:19])[H:20])=[C:8](\[C:5]([H:21])([H:22])[H:23])[H:11])[C:7](=[O:9])[H:10]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])[C@:6]([C:4]([H:18])([H:19])[H:20])([C:7](=[O:9])[H:10])[C@:8]1([C:5]([H:21])([H:22])[H:23])[H:11],72.09159250000639
MR_41614_1,[C:1](\[C:5]([N:4]([C:2]([H:14])([H:15])[H:16])[C:3]([H:12])([H:13])[H:17])([O:7][H:9])[H:11])(=[N:6]/[H:8])[H:10]>>[C:1]([C:5]([N:4]([C:2]([H:14])([H:15])[H:16])[C:3]([H:12])([H:13])[H:17])=[O:7])([N:6]([H:8])[H:9])([H:10])[H:11],35.258597499975366
MR_563508_1,[C:1]([N:6]1[C:3]2([N:4]([H:9])[H:10])[N:2]([H:8])[C:5]1([H:12])[N:7]2[H:11])([H:13])([H:14])[H:15]>>[C:1](/[N:6]=[C:5](/[N:7](/[C:3](=[N:2]/[H:8])[N:4]([H:9])[H:10])[H:11])[H:12])([H:13])([H:14])[H:15],9.699894999979222
MR_49716_0,[C:1]([C:5]([N:4]([N:7]([H:9])[H:10])[H:8])=[C:6]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:1](/[C:5](=[N:4]\[N:7]([H:9])[H:10])[C:6]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])[H:8])([H:11])([H:12])[H:13],56.00311999996293
MR_293755_1,[C:1]1([C:4]([H:16])([H:17])[H:18])([H:10])[C:2]([H:11])([H:12])[C:9]1([C:6]([H:22])([H:23])[H:24])/[C:8]([C:5]([H:19])([H:20])[H:21])=[N:7]/[C:3]([H:13])([H:14])[H:15]>>[C:1]1([C:4]([H:16])([H:17])[H:18])([H:10])[C:2]([H:11])([H:12])[C:9]([C:6]([H:22])([H:23])[H:24])=[C:8]([C:5]([H:19])([H:20])[H:21])[N:7]1[C:3]([H:13])([H:14])[H:15],50.53069250001116
MR_567721_1,[C@:1]([C:4](=[C:3]([O:7][H:10])[O:8][H:11])[H:13])([O:5][C:2]([H:14])([H:15])[H:16])([O:6][H:9])[H:12]>>[C:1](=[C:4](/[C:3]([O:5][C:2]([H:14])([H:15])[H:16])([O:7][H:10])[O:8][H:11])[H:13])(\[O:6][H:9])[H:12],48.475002500029234
MR_174799_1,[C:1]([C:2]([H:17])([H:18])[H:19])([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[N:8]=[C:3]([N:6]([H:14])[H:15])[N:7]([H:13])[H:16]>>[C:1](\[C:2]([H:17])([H:18])[H:19])([N:4]([H:9])[H:10])=[N:8]/[C:3]([N:5]([H:11])[H:12])([N:6]([H:14])[H:15])[N:7]([H:13])[H:16],58.83063499999366
MR_120761_0,[C:1]([N:2]([N:3]([O:5][H:7])[H:8])[O:4][H:6])([H:9])([H:10])[H:11]>>[C:1]([N:2]([N:3]([O:4][H:6])[H:8])[O:5][H:7])([H:9])([H:10])[H:11],70.48017249997287
MR_169031_0,[C:1]([C:3]([C:6]([C:2]([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[H:13])([O:7][H:10])[O:9][H:11])([H:14])[H:15])(=[O:8])[H:12]>>[C:1]([C:2]([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[H:13])([C:3]([C:6]([O:7][H:10])=[O:9])([H:14])[H:15])([O:8][H:11])[H:12],62.05535750002028
MR_44858_2,[C:1](/[N:6]=[C:3](/[N:2]([C:4](=[C:5]([H:13])[H:14])[H:9])[H:7])[H:8])([H:10])([H:11])[H:12]>>[C:1]([N:6](/[C:3](=[N:2]/[H:7])[H:8])[C:4](=[C:5]([H:13])[H:14])[H:9])([H:10])([H:11])[H:12],63.28713999997788
MR_73760_0,[C:1]([C:2]([O:4][H:7])/[N:5]=[C:3](/[N:6][H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C@@:2]([O:4][H:7])([N:5][C:3][N:6][H:8])[H:9])([H:10])([H:11])[H:12],61.13795249998233
MR_235805_0,[C:1]([C:2]([H:13])([H:14])[H:15])([N:4]([H:10])[H:11])([C:5](=[O:7])[H:12])[O:6][N:3]([H:8])[H:9]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([N:4]([H:10])[H:11])[C:5]([O:6][N:3]([H:8])[H:9])([H:12])[O:7]1,30.732439999988657
MR_463113_1,[C:1]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:8])(/[C:4](=[N:7]\[H:11])[H:12])([O:5][H:9])[O:6][H:10]>>[C:1]1([O:5][H:9])([O:6][H:10])[C@:3]([C:2]([H:13])([H:14])[H:15])(/[C:4](=[N:7]\[H:11])[H:12])[O:8]1,61.97503750000905
MR_203465_0,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])/[C:5]([N:6]([H:9])[H:10])=[N:8]/[C:3]([H:18])([H:19])[H:20])([N:7]([H:11])[H:12])([H:13])[H:14]>>[C:1]([N:7]([H:11])[H:12])([N:8]([C:3]([H:18])([H:19])[H:20])/[C:5](=[N:4]/[C:2]([H:15])([H:16])[H:17])[N:6]([H:9])[H:10])([H:13])[H:14],55.09701000000348
MR_540177_0,[C:1]([C:2]([C:4]([N:5]([H:14])[H:15])([O:6][H:11])[O:9][H:10])([O:8][H:12])[H:13])([C:3]([H:16])([H:17])[H:18])=[O:7]>>[C:1]([C:2]([C:4]([N:5]([H:14])[H:15])=[O:9])([O:8][H:12])[H:13])([C:3]([H:16])([H:17])[H:18])([O:6][H:11])[O:7][H:10],26.648669999990773
